US08022075B2
2-Bromo-1-[4-(1,3-oxazol-5-yl)phenyl]-1-ethanone (22)
1-[4-(1,3-Oxazol-5-yl)phenyl]-1-ethanone (2.81 g) and triethylamine (6.27 mL) were dissolved in dichloromethane mL), and bromotrimethylsilane (3.96 mL) was added dropwise to the solution under ice cooling. The mixture was stirred at room temperature overnight under argon. The reaction mixture was washed sequentially with water and saturated saline, followed by drying over magnesium sulfate. The solvent was evaporated under reduced pressure, and the formed brown oily matter was dissolved in tetrahydrofuran mL). Subsequently, N-bromosuccinimide (2.67 g) was added to the solution, followed by stirring at room temperature for 30 minutes. Water was added to the reaction mixture, and the mixture was extracted with ethyl acetate. The solvent was evaporated, and the residue was purified through flash column chromatography (dichloromethane), followed by concentration under reduced pressure. The obtained solid was recovered through filtration by use of n-hexane, to thereby yield the title compound (3.35 g).

reactant | 1-[4-(1,3-Oxazol-5-yl)phenyl]-1-ethanone | 2.81 g | O1C=NC=C1C1=CC=C(C=C1)C(C)=O | C11H9NO2
reactant | triethylamine | 6.27 mL | C(C)N(CC)CC | C6H15N
reactant | bromotrimethylsilane | 3.96 mL | Br[Si](C)(C)C | C3H9BrSi
solvent | dichloromethane | ClCCl | CH2Cl2
product | 2-Bromo-1-[4-(1,3-oxazol-5-yl)phenyl]-1-ethanone | 3.35 g | BrCC(=O)C1=CC=C(C=C1)C1=CN=CO1 | C11H8BrNO2
